US05342953
contacting N-hydroxyethyl-2-chlorobenzylamine with thionyl chloride and an organic base to give N-(2-chlorobenzyl)-2-oxo-1,2,3-oxathiazolidine, and

reactant | N-hydroxyethyl-2-chlorobenzylamine | OCCNCC1=C(C=CC=C1)Cl | C9H12ClNO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | N-(2-chlorobenzyl)-2-oxo-1,2,3-oxathiazolidine | ClC1=C(CN2S(OCC2)=O)C=CC=C1 | C9H10ClNO2S
